US20010003121A1
a) 3,5-Dimethoxy-2-methylbenzoic acid
Solid methyl 3,5-dimethoxy-2-methylbenzoate (5.83 g, J. C. S. Perkin 1, 1973, 2853) was dissolved in methanol (80 ml). A solution of aqueous sodium hydroxide (10%, 80 ml) was added and the solution stirred at room temperature for 1 hour. The reaction was then concentrated under reduced pressure to approximately half of the original volume before adding aqueous hydrochloric acid (200 ml). The white precipitate that formed was extracted with ethyl acetate (2×250 ml). The combined extracts were dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure to give the sub-title compound as a colourless solid (5.41 g).

reactant | methyl 3,5-dimethoxy-2-methylbenzoate | 5.83 g | COC=1C(=C(C(=O)OC)C=C(C1)OC)C | C11H14O4
reactant | sodium hydroxide | 80 ml | [OH-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
product | 3,5-Dimethoxy-2-methylbenzoic acid | 5.41 g | COC=1C(=C(C(=O)O)C=C(C1)OC)C | C10H12O4
